US06696473B2
C. Preparation of 4-Methylpiperazine-1-carboxylic Acid {3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminophenyl}amide
In a manner similar to Example 30, intermediate 4-methylpiperazine-1-carboxylic acid (4-ethylamino-3-nitro-phenyl)amide was hydrogenated and then condensed with 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. MS(ESI): 614 (MH+).

reactant | 4-methylpiperazine-1-carboxylic acid (4-ethylamino-3-nitro-phenyl)amide | C(C)NC1=C(C=C(C=C1)NC(=O)N1CCN(CC1)C)[N+](=O)[O-] | C14H21N5O3
reactant | 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=CC=C2)SC
product | 4-Methylpiperazine-1-carboxylic Acid {3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminophenyl}amide | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC=2C=C(C=CC2NCC)NC(=O)N2CCN(CC2)C | C32H35N7O2S2
